US05254549
A solution of 3.66 g (26.68 mmol) of 3-(3-pyridyl)propanol in 30 ml anhydrous THF and 3.5 ml dry HMPA is added via syringe to a stirred suspension of 2.56 g (60% oil dispersion, 53.33 mmol) of NaH in 35 ml of anhydrous THF under an inert atmosphere at O° C., followed by a 2 h period at reflux. The sodium alcoholate solution is then recooled to 0° C. and 10.68 g (23.19 mmol) of 3-(4-acetoxy-3,5-di-tert-butylphenyl)-1-(tosyloxy)propane, dissolved in 35 ml of anhydrous THF, is added, fo-Wowed by refluxing for 2 h and stirring overnight at room temperature. After usual workup, the crude product (9.88 g; brown oil) is purified by flash-chromatography over silica gel, eluting with n-hexane/ethyl acetate 3:1, yielding 2.88 g (62% of 2,6-ditert-butyl-4-[7-(3-pyridyl)-4-oxaheptyl]phenol as amber oil. (C25H37NO2 ; F.W. 383.6).

reactant | 3-(3-pyridyl)propanol | 26.68 mmol, 3.66 g | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | NaH | 53.33 mmol, 2.56 g | [H-].[Na+]
reactant | 3-(4-acetoxy-3,5-di-tert-butylphenyl)-1-(tosyloxy)propane | 23.19 mmol, 10.68 g | C(C)(=O)OC1=C(C=C(C=C1C(C)(C)C)CCCOS(=O)(=O)C1=CC=C(C)C=C1)C(C)(C)C | C26H36O5S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | HMPA | 3.5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 2,6-ditert-butyl-4-[7-(3-pyridyl)-4-oxaheptyl]phenol | 62% | C(C)(C)(C)C1=C(C(=CC(=C1)CCCOCCCC=1C=NC=CC1)C(C)(C)C)O | C25H37NO2
